US07544703B2
(2-tert-Butoxycarbonylaminopyridin-4-yl)methanol (Reference Compound No. 4-1)
Di-tert-butyl dicarbonate (7.1 g, 32 mmol) was added to a solution of (2-aminopyridin-4-yl)methanol (3.0 g, 24 mmol) in tert-butanol (60 mL) at room temperature, and the mixture was stirred for 12 hours. The reaction mixture was evaporated under reduced pressure, ethyl acetate (20 mL) was added to the resulting residue, and then the insoluble matter was filtered out. The filtrate was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give 3.6 g of the title reference compound as a colorless crystal. (Yield 60%)

reactant | Di-tert-butyl dicarbonate | 32 mmol, 7.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2-aminopyridin-4-yl)methanol | 24 mmol, 3.0 g | NC1=NC=CC(=C1)CO | C6H8N2O
solvent | tert-butanol | 60 mL | C(C)(C)(C)O | C4H10O
product | (2-tert-Butoxycarbonylaminopyridin-4-yl)methanol | Yield 60% | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CO | C11H16N2O3
